US06858638B2
3-Methylamino-5-nitro-1H-indazole can be obtained in the following way: 2.4 ml of formic acid are added dropwise to a solution, cooled to 0° C., of 5 ml of acetic anhydride. The solution is then brought to 50° C. for one hour and then again cooled to −20° C. 3.5 g of 3-amino-5-nitro-1H-indazole in solution in 150 ml of tetrahydrofuran are then added and stirring is maintained at −20° C. for one hour. The reaction medium is concentrated by evaporation under reduced pressure and the residue thus obtained is dissolved in 50 ml of tetrahydrofuran. The solution thus obtained is cooled to 0° C. and 25 ml of borane-dimethyl sulfide complex (2M solution in tetrahydrofuran) are added dropwise. The reaction medium is brought slowly to a temperature in the region of 25° C. and then brought to reflux for 3 hours and again brought to a temperature in the region of 0° C. After addition of 100 ml of methanol, 50 ml of 3M hydrochloric methanol are added dropwise and the mixture is brought to reflux for one hour. The medium is brought to a temperature in the region of 25° C. and concentrated under reduced pressure by evaporation. The residue thus obtained is taken up with 100 ml of water and neutralized to pH 11 by addition of aqueous ammonia, and then extracted with 3 times 100 ml of ethyl acetate. The organic phases are pooled, dried over magnesium sulfate, filtered and concentrated by evaporation under reduced pressure. The residue thus obtained is purified by chromatography on a silica column with a dichloromethane/methanol (99/1 by volume) mixture as eluent. 1.1 g of 3-methylamino-5-nitro-1H-indazole are thus obtained in the form of an orange solid melting at 252° C.

reactant | acetic anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 3-amino-5-nitro-1H-indazole | 3.5 g | NC1=NNC2=CC=C(C=C12)[N+](=O)[O-] | C7H6N4O2
reactant | borane-dimethyl sulfide | 2M, 25 ml | CSC.B
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
solvent | methanol | 3M, 50 ml | CO | CH4O
solvent | methanol | 100 ml | CO | CH4O
solvent | formic acid | 2.4 ml | C(=O)O | CH2O2
product | 3-methylamino-5-nitro-1H-indazole | 1.1 g | CNC1=NNC2=CC=C(C=C12)[N+](=O)[O-] | C8H8N4O2
